US07419979B2
6-Chloro-pyridazin-3-ol (5.34 g, 40.8 mmol), 4-(2-chloro-ethyl)-morpholine hydrochloride (7.61 g, 40.8 mmol) and potassium carbonate (11.3 g, 81.7 mmol) were added to 20 mL of acetonitrile, 10 mL of N,N-dimethylformamide and 0.5 mL of water. The reaction mixture was heated using an oil bath at 116° C. After 4 hours, LC/MS showed the disappearance of 6-chloro-pyridazin-3-ol and the formation of the alkylated product. After cooling to room temperature, 100 mL of water was added to the mixture. The aqueous phase was extracted twice with ethyl acetate. The combined organic layers were dried over Na2SO4, concentrated, and subjected to flash column chromatography (ethyl acetate/hexane/triethyl amine; 1:6:0.05) on silica gel to give 6-chloro-2-(2-morpholin-4-yl-ethyl)-2H-pyridazin-3-one after removal of solvents in vacuo. To the residue was added 20 mL of 4 M aqueous HCl and 20 mL of methanol were added (pH ˜2). The mixture was concentrated to get a solid residue, which could be further purified through re-crystallisation in hot ethanol. Finally, 4.2 g (37%) of the product as a mono hydrochloride salt was obtained as colourless solid material.

reactant | 6-Chloro-pyridazin-3-ol | 40.8 mmol, 5.34 g | ClC1=CC=C(N=N1)O | C4H3ClN2O
reactant | 4-(2-chloro-ethyl)-morpholine hydrochloride | 40.8 mmol, 7.61 g | Cl.ClCCN1CCOCC1
reactant | potassium carbonate | 81.7 mmol, 11.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | water | 100 mL | O | H2O
solvent | water | 0.5 mL | O | H2O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 6-chloro-2-(2-morpholin-4-yl-ethyl)-2H-pyridazin-3-one | ClC=1C=CC(N(N1)CCN1CCOCC1)=O | C10H14ClN3O2
